US04873331
Hexahydro-2,5-methanopentalene-3a[1H]-carboxylic acid 2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl ester
To a stirred solution of hexahydro-2,5-methanopentalene-3a[1H]-carboxylic acid (0.6 g, 3.6×10-3 mol) in 25 ml of chloroform un der a dry nitrogen atmosphere was added carbonyldiimidazole (0.58 g, 3.6×10-3 mol). The resulting solution was stirred at ambient temperature for three hours, during which time a gas (CO2) was evolved. A solution of 2-[1-(2-methoxyphenyl)-4-piperazinyl]ethanol (0.86 g, 3.6×10-3 mol) in 25 ml of chloroform was then added, and the resulting reaction mixture was stirred under nitrogen at ambient temperature for two days. The mixture was diluted to 150 ml with chloroform, washed with three-one hundred ml portions of water, dried over anhydrous sodium sulfate, and concentrated on a rotary evaporator. The desired product (TLC on silica using a 30% methanol in ethyl acetate solvent system, RF=0.60) was isolated by gravity chromatography on silica gel and converted to the hydrochloride salt with isopropanolic HCl (0.82 g, 44% yield), mp.=207°-208° C.

reactant | hexahydro-2,5-methanopentalene-3a[1H]-carboxylic acid | 3.6×10-3 mol, 0.6 g | C1C2CC3(CC(CC13)C2)C(=O)O | C10H14O2
reactant | carbonyldiimidazole | 3.6×10-3 mol, 0.58 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | 2-[1-(2-methoxyphenyl)-4-piperazinyl]ethanol | 3.6×10-3 mol, 0.86 g | COC1=C(C=CC=C1)N1CCN(CC1)CCO | C13H20N2O2
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 25 ml | C(Cl)(Cl)Cl | CHCl3
product | Hexahydro-2,5-methanopentalene-3a[1H]-carboxylic acid 2-[4-(2-methoxyphenyl)-1-piperazinyl]ethyl ester | COC1=C(C=CC=C1)N1CCN(CC1)CCOC(=O)C12CC3CC2CC(C1)C3 | C23H32N2O3
